US04839369
5-[3-(3-(2-Quinolylmethyloxy)phenoxy)propyl]tetrazole
A mixture of 4.4 g of 2-[3-(3-cyanopropoxy)phenoxymethyl]quinoline, 2.6 g of sodium azide and 2.1 g of ammonium chloride in 35 ml of dry dimethylformamide was heated at 140° C. for 18 hours. The reaction mixture was poured onto ice. A solution of 20 ml of 1N sodium hydroxide was added and the solution was extracted twice with ethyl acetate. Concentrated hydrochloric acid was added to acidify the aqueous portion. This was extracted twice with ethyl acetate, dried and evaporated to give 4.5 g of a tan solid. Recrystallization from ethyl acetate gave 1.5 g of pure product of m.p. 147°-149° C.

reactant | 2-[3-(3-cyanopropoxy)phenoxymethyl]quinoline | 4.4 g | C(#N)CCCOC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C20H18N2O2
reactant | sodium azide | 2.6 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.1 g | [Cl-].[NH4+]
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 5-[3-(3-(2-Quinolylmethyloxy)phenoxy)propyl]tetrazole | 4.5 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(OCCCC2=NN=NN2)C=CC1 | C20H19N5O2
